US07915443B2
N-[{4-[3-(3-hydroxypyrrolidin-1-yl)-3-oxopropyl]phenyl}(methyl)oxido--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}-ethynyl)nicotinamide
In a manner similar to that described in Example 485, 3-[4-(S-methyl-N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}-ethynyl)pyridin-3-yl]carbonyl}sulfonimidoyl)-phenyl]propanoic acid (0.050 g, 0.090 mmol) and pyrrolidin-3-ol (0.016 g, 0.180 mmol) were reacted to give the title compound (0.015 g, 27%).

reactant | 3-[4-(S-methyl-N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}-ethynyl)pyridin-3-yl]carbonyl}sulfonimidoyl)-phenyl]propanoic acid | 0.090 mmol, 0.050 g | CS(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)C1=CC=C(C=C1)CCC(=O)O | C30H25N3O6S
reactant | pyrrolidin-3-ol | 0.180 mmol, 0.016 g | N1CC(CC1)O | C4H9NO
product | N-[{4-[3-(3-hydroxypyrrolidin-1-yl)-3-oxopropyl]phenyl}(methyl)oxido--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}-ethynyl)nicotinamide | 0.015 g, 27% | OC1CN(CC1)C(CCC1=CC=C(C=C1)S(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(=O)C)=O | C34H32N4O6S
